US07481973B2
Preparation of 1-(n-octyl)glycerol Ether
23 g (1 mol) of sodium were added in portions over the course of 4 hours to 325 g (2.5 mol) of 1-octanol while stirring at 105° C. (the temperature did not rise above 120° C. during this). The mixture was stirred at 115° C. for 1 hour. Subsequently, 110.5 g (1 mol) of 3-chloro-propane-1,2-diol were added over the course of 2 hours, and the mixture was stirred at 120° C. for 3 hours. After cooling, the mixture was taken up in 400 ml of diethyl ether and extracted 3× with a total of 700 ml of water. The ethereal phase was dried over sodium sulphate and concentrated. The residue was distilled in vacuo.

reactant | sodium | 1 mol, 23 g | [Na] | Na
reactant | 1-octanol | 2.5 mol | C(CCCCCCC)O | C8H18O
reactant | 3-chloro-propane-1,2-diol | 1 mol, 110.5 g | ClCC(CO)O | C3H7ClO2
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 1-(n-octyl)glycerol Ether | C(CCCCCCC)OCC(O)CO.CCOCC | InChI=1S/C11H24O3.C4H10O/c1-2-3-4-5-6-7-8-14-10-11(13)9-12;1-3-5-4-2/h11-13H,2-10H2,1H3;3-4H2,1-2H3
